US20010056188A1
2) 3-(Benzothiazol-6-ylamino)-3-(1,1-dimethyl-propylamino)-2-methylsulfonyl-propenenitrile
3-(Benzothiazol-6-ylamino)-2-methylsulfonyl-3-methylsulfanyl-propenenitrile (0.167 g, 0.5 mmol) was stirred in 1,1-dimethylpropylamine (0.5 ml) for 17 h at 100° C. under nitrogen in a sealed flask. Work-up as described in EXAMPLE 17, 2) without chromatography gave 60 mg (33%) of the title compound. Mp 112-114° C. 1H NMR (200 MHz, CDCl3): δ=1.00 (t, 3H), 1.39 (s, 6H), 1.65 (q, 2H), 3.12 (s, 3H) 7.29 (dd, 1H), 7.70 (d, 1H), 8.13 (d, 1H), 9.0 (s, 1H); EI SP/MS: 364 (M+).

reactant | 3-(Benzothiazol-6-ylamino)-2-methylsulfonyl-3-methylsulfanyl-propenenitrile | 0.5 mmol, 0.167 g | S1C=NC2=C1C=C(C=C2)NC(=C(C#N)S(=O)(=O)C)SC | C12H11N3O2S3
reactant | 1,1-dimethylpropylamine | 0.5 ml | CC(CC)(C)N | C5H13N
product | 3-(Benzothiazol-6-ylamino)-3-(1,1-dimethyl-propylamino)-2-methylsulfonyl-propenenitrile | 60 mg, 33% | S1C=NC2=C1C=C(C=C2)NC(=C(C#N)S(=O)(=O)C)NC(CC)(C)C | C16H20N4O2S2
